US09447029B2
To a solution of 2-(3-butoxyphenyl)-2-fluoroacetonitrile (109 mg: 0.53 mmol) in dry THF (5 mL), borane tetrahydrofurane complex (2.10 mL; 2.10 mmol) is added and the reaction is stirred at 0° C. for 2 hours and then at RT for 6 hours. An LC/MS shows almost complete conversion. The reaction is quenched adding slowly few drops of EtOH and few drops of conc. HCl/EtOH (1:5) and stirring is continued for 5 min. DCM was then added, followed by 5% aqueous NaHCO3. The two phases are separated and the aqueous phase is extracted twice with DCM. The combined organic layers are dried over Na2SO4, filtered and evaporated. The crude residue is purified using a SCX cartridge (eluant: DCM/MeOH 1/1 to MeOH/conc. aq. NH3 95/5) affording 2-(3-butoxyphenyl)-2-fluoroethanamine (92 mg; 0.43 mmol; 83%) as a pale yellow oil.

reactant | 2-(3-butoxyphenyl)-2-fluoroacetonitrile | 0.53 mmol, 109 mg | C(CCC)OC=1C=C(C=CC1)C(C#N)F | C12H14FNO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(3-butoxyphenyl)-2-fluoroethanamine | 0.43 mmol, 92 mg, 83% | C(CCC)OC=1C=C(C=CC1)C(CN)F | C12H18FNO
